US05298652
A mixture of 1.0 g (6.6 mmol) of 3,4-dihydroxybenzoic acid methyl ester, 4.1 ml (14 mmol) of 1-bromotetradecane and 2.5 g (17.9 mmol) of potassium carbonate in 50 ml of DMF was stirred and heated at 100° for 65 hours. The solvent was removed using high vacuum, water was added to the residue and the product was extracted with ethyl acetate. The dried extract was concentrated to a solid which was recrystallized from methanol-water to give 1.1 g (30% yield, mp 49°-50°) of 3,4-bis(tetradecyloxy)benzoic acid methyl ester.

reactant | 3,4-dihydroxybenzoic acid methyl ester | 6.6 mmol, 1.0 g | COC(C1=CC(=C(C=C1)O)O)=O | C8H8O4
reactant | 1-bromotetradecane | 14 mmol, 4.1 ml | BrCCCCCCCCCCCCCC | C14H29Br
reactant | potassium carbonate | 17.9 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3,4-bis(tetradecyloxy)benzoic acid methyl ester | 1.1 g, 30% yield | COC(C1=CC(=C(C=C1)OCCCCCCCCCCCCCC)OCCCCCCCCCCCCCC)=O | C36H64O4
